US07737141B2
Synthesis of (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol
A diethyl ether solution (1 mL) of (S)-(−)-propylene oxide (0.1 mL) and (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine (212 mg) was added to a diethyl ether suspension (1 mL) of lithium perchlorate (750 mg). This reaction solution was stirred in nitrogen atmosphere at room temperature overnight. To this reaction solution, methylene chloride and iced-water were added. The organic layer was separated, and the water was re-extracted with methylene chloride. The organic layers were combined, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluting solvent; ethyl acetate:heptane=9:1 to 4:1) to give 172 mg of the title compound. The physical property values of this compound were as follows:

reactant | diethyl ether | 1 mL | C(C)OCC | C4H10O
reactant | (S)-(−)-propylene oxide | 0.1 mL | C1[C@H](C)O1 | C3H6O
reactant | (1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamine | 212 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)N)C | C25H28F3NOSi
reactant | diethyl ether | 1 mL | C(C)OCC | C4H10O
reactant | lithium perchlorate | 750 mg | Cl(=O)(=O)(=O)[O-].[Li+]
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (S)-1-[(1R,2R)-2-tert-butyldiphenylsilanyloxy-1-(3,4,5-trifluorophenyl)propylamino]propan-2-ol | 172 mg | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)O[C@@H]([C@@H](C1=CC(=C(C(=C1)F)F)F)NC[C@H](C)O)C | C28H34F3NO2Si
